US05030736
5,6-Dihydro-6-hydroxy-5,5-dimethyl-7-(4-trifluoromethylbenzamido)-7H-thieno[3,2-b]pyran
The title compound was prepared as described in Example 3 starting with 6-bromo-7-hydroxy-5,6-dihydro-5,5-dimethyl-7H-thieno[3,2-b]pyran (4.5 g, 17.1 mmol) and 4-trifluoromethylbenzamide (7.43 g, 39.3 mmol) in N,N-dimethylformamide (75 mL) to give the product, 1.96 g (31%), as a colorless solid: mp 162°-163° C.; IR (KBr): 3396, 1664, 1534 and 1507 cm-1 ; MS: m/z 372 (MH+); 1H NMR (DMSO-d6): δ1.21(s, 3H), 1.40(s, 3H), 3.80(m, 1H, simplifies to d, J=8.7 Hz, with D2O), 5.01(m, 1H, simplifies to d, J=8.7 Hz, with D2O), 5.68(d, J=6.0 Hz, 1H, exchanges with D2O), 6.59(d, J 5.7 Hz, 1H), 7.31(d, J=5.7 Hz, 1H), 7.88(d, J=8.3 Hz, 2H), 8.11(d, J=8.3 Hz, 2H) and 9.05(d, J=8.4 Hz, 1H exchanges with D2O).

reactant | 6-bromo-7-hydroxy-5,6-dihydro-5,5-dimethyl-7H-thieno[3,2-b]pyran | 17.1 mmol, 4.5 g | BrC1C(C2=C(OC1(C)C)C=CS2)O | C9H11BrO2S
reactant | 4-trifluoromethylbenzamide | 39.3 mmol, 7.43 g | FC(C1=CC=C(C(=O)N)C=C1)(F)F | C8H6F3NO
reactant | KBr | [K+].[Br-]
reactant | N,N-dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
product | 5,6-Dihydro-6-hydroxy-5,5-dimethyl-7-(4-trifluoromethylbenzamido)-7H-thieno[3,2-b]pyran | OC1C(C2=C(OC1(C)C)C=CS2)NC(C2=CC=C(C=C2)C(F)(F)F)=O | C17H16F3NO3S
